US08466181B2
6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-morpholinonicotinamide
As described for example 22, 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (69 mg, 0.189 mmol) was converted, using 4-aminomorpholine instead of 4-aminotetrahydropyran, to the title compound (59 mg, 70%) which was obtained as a white foam after purification by chromatography (silica, 0 to 10% methanol in dichloromethane). MS: m/e=449.2 [M+H]+.

reactant | 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.189 mmol, 69 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | 4-aminomorpholine | NN1CCOCC1 | C4H10N2O
product | 6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-morpholinonicotinamide | 59 mg, 70% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)NN2CCOCC2)C=C1)C | C22H21FN8O2
